US05053432
The crude 4-benzyloxycyclohexane-1-nitrile (4.0 g) was refluxed with stirring with a mixture of glacial acetic acid (16 ml) and concentrated hydrochloric acid (24 ml) for 20 hours. The reaction mixture was cooled, the solid removed by filtration and washed with water. The product was ground with 2M sodium hydroxide solution (70 ml) and then diluted with water. Unchanged nitrile was removed by filtration and the filtrate acidified with concentrated hydrochloric acid. White crystals separated and were collected by filtration, washed with water and dried to yield 4-benzyloxycyclohexane-1-carboxylic acid m.p. 170°-180° C.

reactant | 4-benzyloxycyclohexane-1-nitrile | 4.0 g | C(C1=CC=CC=C1)OC1CCC(CC1)C#N | C14H17NO
reactant | hydrochloric acid | 24 ml | Cl | ClH
reactant | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
product | 4-benzyloxycyclohexane-1-carboxylic acid | C(C1=CC=CC=C1)OC1CCC(CC1)C(=O)O | C14H18O3
